US07417169B2
A suspension of N-[5-((R)-2-azido-1-triethylsilyloxyethyl)-2-benzyloxyphenyl]methanesulfonamide (1.84 g) and 10% palladium-carbon (0.18 g) in methanol (15 mL) /methylene chloride (15 mL) was stirred at room temperature for 5 hrs under an atmosphere of hydrogen. The catalyst was removed by filtration, and the solvent was evaporated under reduced pressure to afford N-[5-((R)-2-amino-1-triethylsilyloxyethyl)-2-hydroxyphenyl]methanesulfonamide as a crude product. The crude N-[5-((R)-2-amino-1-triethylsilyloxyethyl)-2-hydroxyphenyl]methanesulfonamide was dissolved in tetrahydrofuran (40 mL), and 2,5-dioxopyrrolidin-1-yl (4-bromophenoxy)acetate (1.39 g) was added to the solution. After being stirred at room temperature for 3 hrs, the reaction mixture was concentrated in vacuo, and the residue was purified by medium-pressure silica gel column chromatography (eluent: n-hexane/ethyl acetate=1/1) to afford the title compound (1.01 g).

reactant | N-[5-((R)-2-azido-1-triethylsilyloxyethyl)-2-benzyloxyphenyl]methanesulfonamide | 1.84 g | N(=[N+]=[N-])C[C@H](O[Si](CC)(CC)CC)C=1C=CC(=C(C1)NS(=O)(=O)C)OCC1=CC=CC=C1 | C22H32N4O4SSi
reactant | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 15 mL | CO | CH4O
catalyst | palladium-carbon | 0.18 g | [C].[Pd]
product | N-[5-((R)-2-amino-1-triethylsilyloxyethyl)-2-hydroxyphenyl]methanesulfonamide | NC[C@H](O[Si](CC)(CC)CC)C=1C=CC(=C(C1)NS(=O)(=O)C)O | C15H28N2O4SSi
